US07598397B2
7-Benzyloxy-2-methyl-1-naphthalen-2-ylmethyl-1H-benzoimidazole (211 mg) in methanol (12 mL) and acetic acid (1.0 mL) was hydrogenated in presence of 10% Pd—C at 45 psi for 20 h. Reaction mixture was filtered through a pad of celite. The filtrate was concentrated to afford 2-methyl-3-naphthalen-2-ylmethyl-1H-benzoimidazol-4-ol, I-111 (211 mg).

reactant | 7-Benzyloxy-2-methyl-1-naphthalen-2-ylmethyl-1H-benzoimidazole | 211 mg | C(C1=CC=CC=C1)OC1=CC=CC2=C1N(C(=N2)C)CC2=CC1=CC=CC=C1C=C2 | C26H22N2O
solvent | methanol | 12 mL | CO | CH4O
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
catalyst | Pd—C | [Pd] | Pd
product | 2-methyl-3-naphthalen-2-ylmethyl-1H-benzoimidazol-4-ol | CC1N(C2=C(N1)C=CC=C2O)CC2=CC1=CC=CC=C1C=C2 | C19H18N2O
